US08198279B2
1-(2-fluoro-5-(trifluoromethyl)phenyl)-3-(4-(2-oxo-1,2-dihydropyrido[2,3-b]pyrazin-8-yloxy)naphthalen-1-yl)urea (AA-038)
Method F2 was used with 8-(4-aminonaphthalen-1-yloxy)pyrido[2,3-b]pyrazin-2(1H)-one and 1-fluoro-2-isocyanato-4-(trifluoromethyl)benzene to afford the title compound as a white solid (65 mg, 98%).

reactant | 8-(4-aminonaphthalen-1-yloxy)pyrido[2,3-b]pyrazin-2(1H)-one | NC1=CC=C(C2=CC=CC=C12)OC1=CC=NC=2N=CC(NC21)=O | C17H12N4O2
reactant | 1-fluoro-2-isocyanato-4-(trifluoromethyl)benzene | FC1=C(C=C(C=C1)C(F)(F)F)N=C=O | C8H3F4NO
product | 1-(2-fluoro-5-(trifluoromethyl)phenyl)-3-(4-(2-oxo-1,2-dihydropyrido[2,3-b]pyrazin-8-yloxy)naphthalen-1-yl)urea | 65 mg, 98% | FC1=C(C=C(C=C1)C(F)(F)F)NC(=O)NC1=CC=C(C2=CC=CC=C12)OC1=CC=NC=2N=CC(NC21)=O | C25H15F4N5O3
